US04025527
N,N'-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]urea
A mixture of 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (1.6 g.) and 1,1-carbonyl di-imidazole (0.5 g.) in dimethyl formamide (12 ml.) was heated to reflux temperature whereupon the mixture solidified. After cooling, a small quantity of dimethyl formamide was added and the slurry was filtered to give the solid product which was washed with water, ethanol and ether and finally recrystallised from dimethyl formamide. Yield 0.5 g., m.p. 230°-234°.

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 1.6 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | dimethyl formamide | 12 ml | CN(C=O)C | C3H7NO
product | N,N'-bis-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]urea | CC=1N=CNC1CSCCNC(=O)NCCSCC1=C(N=CN1)C | C15H24N6OS2
